US09084794B2
(+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(2-methylquinolin-7-yl)phenyl)acetamide
A solution of 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide (0.341 mmol) in dry 1,4-dioxane (1.5 mL) was treated with bis(pinacolato)diboron (0.409 mmol), potassium acetate (0.499 mmol) and PdCl2(dppf)-CH2Cl2 adduct (0.017 mmol). The solution was degassed with a stream of nitrogen for three minutes, at which point the reaction vessel was purged with nitrogen and sealed, and the mixture stirred in an oil bath at 100° C. overnight. At this point the reaction was cooled to room temperature and 7-bromo-2-methylquinoline (0.341 mmol), PdCl2(dppf)-CH2Cl2 adduct (0.017 mmol), and 2M aq potassium carbonate (1.022 mmol) were added. The reaction vessel was purged with nitrogen and sealed, and the mixture irradiated in a Biotage Initiator Microwave at 120° C. for 15 min. The resulting black mixture was diluted with water (100 mL) and brine (30 mL) and was extracted with ethyl acetate three times. The combined organic layers were treated with Silicycle Si-thiol (20 mg), dried over sodium sulfate, filtered and concentrated in vacuo. Purification of the residue by silica gel chromatography (0-9% methanol/dichloromethane) followed by chiral HPLC (Chromegachiral CC4, methanol) and lyophilization from water (w/25% acetonitrile) afforded the title compound as a white solid in >98% ee (38 mg, 21% yield). MS(ES)+ m/e 503.0 [M+H]+. αD=+48 deg (c=0.04, methanol).

reactant | 2-(4-bromo-2-fluorophenyl)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)acetamide | 0.341 mmol | BrC1=CC(=C(C=C1)C(C(=O)N)N1CCC2(CN(C(CO2)=O)C2CC2)CC1)F | C19H23BrFN3O3
reactant | bis(pinacolato)diboron | 0.409 mmol | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 0.499 mmol | C(C)(=O)[O-].[K+]
reactant | 7-bromo-2-methylquinoline | 0.341 mmol | BrC1=CC=C2C=CC(=NC2=C1)C | C10H8BrN
reactant | potassium carbonate | 1.022 mmol, 2M | C([O-])([O-])=O.[K+].[K+]
solvent | 1,4-dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) CH2Cl2 | 0.017 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
catalyst | PdCl2(dppf) CH2Cl2 | 0.017 mmol | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2].C(Cl)Cl
product | (+)-2-(4-cyclopropyl-3-oxo-1-oxa-4,9-diazaspiro[5.5]undecan-9-yl)-2-(2-fluoro-4-(2-methylquinolin-7-yl)phenyl)acetamide | 21% yield | C1(CC1)N1C(COC2(C1)CCN(CC2)C(C(=O)N)C2=C(C=C(C=C2)C2=CC=C1C=CC(=NC1=C2)C)F)=O | C29H31FN4O3
